US08242124B2
To a solution of 2-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (23 mg, 0.072 mmol), 4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (15.39 mg, 0.072 mmol) and 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (27.9 mg, 0.087 mmol) in DMF (1 mL) was added N,N-diisopropylethylamine (0.127 mL, 0.725 mmol). The mixture was stirred at room temperature for 2 hours, diluted with MeOH and purified by prep. HPLC to give 1-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(pyridin-2-yl)-5,6-dihydropyrido[3,4-d]pyrimidin-7(8H)-yl)ethane-1,2-dione (9 mg, 0.016 mmol, 22% yield). LCMS: m/z 512.2 (M+H)+, 1.34 min (method 8). 1H NMR (500 MHz, DMSO-d6) d ppm 12.39-12.48 (m, 1H) 9.30-9.33 (m, 1H) 9.06-9.16 (m, 1H) 8.64-8.76 (m, 1H) 8.29-8.39 (m, 1H) 7.98-8.10 (m, 2H) 7.87 (s, 1H) 7.49-7.58 (m, 1H) 4.70-4.92 (m, 2H) 4.65-4.67 (m, 2H) 3.83-3.90 (m, 3H) 3.68 (t, J=5.80 Hz, 2H) 3.16 (t, J=5.65 Hz, 2H).

reactant | 2-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 0.072 mmol, 23 mg | OCC1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)O)=O)OC | C13H11N5O5
reactant | 4-(pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.072 mmol, 15.39 mg | N1=C(C=CC=C1)C=1C2=C(N=CN1)CNCC2 | C12H12N4
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.087 mmol, 27.9 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.725 mmol, 0.127 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-(7-(3-(hydroxymethyl)-1H-1,2,4-triazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(pyridin-2-yl)-5,6-dihydropyrido[3,4-d]pyrimidin-7(8H)-yl)ethane-1,2-dione | 0.016 mmol, 9 mg, 22% yield | OCC1=NN(C=N1)C=1N=CC(=C2C1NC=C2C(C(=O)N2CC=1N=CN=C(C1CC2)C2=NC=CC=C2)=O)OC | C25H21N9O4
